US09303000B2
Synthesis of (isobutyl carbonic) (Z)-3-(3-(3-methoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic anhydride
In a 50 mL, 3N round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (Z)-3-(3-(3-methoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (1.0 g, 1.0 eq.) was dissolved in THF (25 mL). The reaction mixture was cooled to 0° C. To this reaction mixture was added Isobutyl chloroformate (0.697 g, 1.6 eq.) and 4-methylmorpholine (0.453 g, 1.4 eq.). The reaction mixture was maintained at 0° C. for 1 h. The progress of the reaction was followed by TLC analysis on silica gel with 10% MeOH-dichloromethane as mobile phase. SM Rf=0.20 and Product Rf=0.6. Reaction mixture was filtered through celite bed. The filtrate was used for next step without any work up and purification.

reactant | (Z)-3-(3-(3-methoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 1.0 g, 1.0 eq. | COC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O | C13H10F3N3O3
reactant | Isobutyl chloroformate | 0.697 g, 1.6 eq. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-methylmorpholine | 0.453 g, 1.4 eq. | CN1CCOCC1 | C5H11NO
reactant | MeOH dichloromethane | CO.ClCCl
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (Z)-3-(3-(3-methoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic anhydride | COC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)OC)=O | C26H18F6N6O5
